US06589954B1
2-Methoxy-3,4-diaminobenzoic Acid:
2-methoxy-3,4-dinitrobenzoic acid (1.0 g) was dissolved in methanol (50 mL) and treated with 100 mg 10% palladium on carbon. The reaction mixture was purged with nitrogen and placed in an ice bath. Upon treatment with 5 mL formic acid, brisk effervescence was noticed which subsides upon further cooling. The reaction mixture was filtered through celite and concentrated to give a tan solid. (Decolorization occurs rapidly upon keeping) EIMS M+ 182, Exp. 182.

reactant | 2-methoxy-3,4-dinitrobenzoic acid | 1.0 g | COC1=C(C(=O)O)C=CC(=C1[N+](=O)[O-])[N+](=O)[O-] | C8H6N2O7
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 2-Methoxy-3,4-diaminobenzoic Acid | COC1=C(C(=O)O)C=CC(=C1N)N | C8H10N2O3
